Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Cerebellar Infarct 
 
Major Surgical or Invasive Procedure:
TEE

 
History of Present Illness:
Mr. ___ is a ___ year-old right-handed man with no 
significant past medical history who presents as a transfer from 
___ where he presented with right arm paresthesia, 
vomiting, and gait difficulty and was found to have a right 
vertebral occlusion and cerebellar stroke.

He was in his usual state of health on ___ when around 3PM he 
had instant-onset right-sided headache, sharp, ___ intensity, 
and accompanied by double vision. It lasted for 20 minutes and 
dissipated. At 9PM, the headache returned and was a more painful 
___ intensity, accompanied by right scalp tenderness,
nausea/vomiting, and right hand tingling paresthesia. He was 
able to go to sleep, but when he woke up this morning the 
headache remained and he was unable to walk in a straight line, 
listing heavily to the right. His right hand was also numb. He 
was taken to ___ where imaging revealed a right 
vertebral occlusion and cerebellar stroke. He was given 325mg 
aspirin,
Reglan, 1L IVF, and transferred to ___ for further management. 
 

He cannot recall any recent neck trauma of any kind. He works as 
an ___ for a ___ but has not done 
any heavy lifting or other physically demanding work.  

His family history is significant for Marfan syndrome in a 
cousin on his mother's side, as well as mitral valve prolapse in 
that cousin and the patient's mother. There is also a history in 
the patient's ___ year-old father of five apparently unprovoked 
DVTs in the last ___ years. 
 
Past Medical History:
Obesity
 
Social History:
___
Family History:
Father with diabetes and 5 DVTs in the last ___ years. 
Mother with asthma, MV prolapse. 
Maternal cousin with ___ syndrome and MV prolapse. 
History of multiple cancers on mother's side (colorectal, lung,
jaw, uterine). 
 
Physical Exam:
ON ADMISSION
============
-Vitals: T:98.5  BP:135/94  HR:90  RR:16  SaO2:97%

-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. 
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 2+
radial, DP pulses.
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There are no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. Speech is not dysarthric. Able to follow 
both
midline and appendicular commands. Able to register 3 objects 
and
recall ___ at 5 minutes. There is no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm and brisk. VFF to confrontation and no
extinction. 
III, IV, VI: EOMI without nystagmus. Gaze conjugate. Normal
saccades.
V: Facial sensation intact to light touch. Increased sensation 
to
light touch on right face, but no hyperalgesia to pinprick. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to finger rub.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  4+   5-  5-  ___  ___    5  5     5     5   5

-Sensory: Light pins-and-needles paresthesia in right hand
decreasing proximally up to shoulder. Sensation to light touch
and pinprick is intact and symmetric even in this area. 

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  2    2    2   2   
R  2  2    2    2   2  
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or
toe-to-finger. Able to mirror movements well with bilateral 
upper
and lower extremities. 

-Gait: Deferred given large size. 

ON DISCHARGE
============
 -Vitals: T: 98.1 BP:121-155/68-101  HR:57-102  ___
SaO2: 97-100%

GEN: No acute distress
HEENT: Normocephalic, atraumatic
PULM: Regular work of breathing
EXTR: Warm & well perfused; No edema 

NEUROLOGIC EXAM:
 -MS: Alert, oriented, and attentive. Speech is clear and 
fluent.
Comprehension, naming, and repetition intact. 

-CN: PERRL bilaterally. EOM intact with no nystagmus. Facial
sensation intact to light touch. Face symmetric. Palate elevates
symmetrically. Tongue midline. 

 - Sensorimotor: Normal bulk and tone. Strength ___ throughout.
No pronator drift. Sensation intact to light touch.  

- Coordination: No dysmetria on finger-to-nose or heel-to-shin.
No dysdiadochinesia. Finger tap fast and rhythmic. 

- Gait: Posture is normal. Gait is steady 

 
Pertinent Results:
ADMISSION LABS 
===============
___ 10:50PM   GLUCOSE-198* UREA N-12 CREAT-0.9 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-99 TOTAL CO2-22 ANION GAP-15
___ 10:50PM   estGFR-Using this
___ 10:50PM   ALT(SGPT)-17 AST(SGOT)-21 ALK PHOS-88 TOT 
BILI-0.3
___ 10:50PM   LIPASE-44
___ 10:50PM   cTropnT-<0.01
___ 10:50PM   ALBUMIN-4.1 CALCIUM-9.3 PHOSPHATE-2.7 
MAGNESIUM-1.9
___ 10:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:50PM   WBC-15.7* RBC-4.91 HGB-14.5 HCT-43.0 MCV-88 
MCH-29.5 MCHC-33.7 RDW-12.8 RDWSD-40.6
___ 10:50PM   NEUTS-65.8 ___ MONOS-7.1 EOS-1.4 
BASOS-0.3 IM ___ AbsNeut-10.35* AbsLymp-3.86* 
AbsMono-1.12* AbsEos-0.22 AbsBaso-0.05
___ 10:50PM   PLT COUNT-328
___ 10:50PM   ___ PTT-23.9* ___
___ 01:33PM URINE Color-Straw Appear-Clear Sp ___
___ 01:33PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:33PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-POS* mthdone-NEG

PERTINENT LABS
==============
___ 06:15AM BLOOD FacVIII-182
___ 09:10AM BLOOD %HbA1c-7.3* eAG-163*
___ 09:10AM BLOOD Triglyc-112 HDL-28* CHOL/HD-7.3 
LDLcalc-153*
___ 09:10AM BLOOD TSH-3.4

DISCHARGE LABS
==============
___ 06:22AM BLOOD WBC-15.7* RBC-5.11 Hgb-14.7 Hct-44.2 
MCV-87 MCH-28.8 MCHC-33.3 RDW-12.5 RDWSD-39.5 Plt ___
___ 06:22AM BLOOD Glucose-134* UreaN-12 Creat-0.8 Na-140 
K-4.0 Cl-102 HCO3-23 AnGap-15
___ 06:22AM BLOOD Calcium-9.7 Phos-4.4 Mg-2.0

IMAGING
=======
LOWER EXT U/S BILAT (___): No evidence of deep venous 
thrombosis in the
right or left lower extremity veins.

TEE: No spontaneous echo contrast or thrombus is seen in the 
body of the left atrium or left atrial appendage. No atrial 
septal defect or patent foramen ovale is seen by 2D, color 
Doppler or saline contrast with maneuvers (rest and cough only). 
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. There is no pericardial effusion. 

TTE: The left atrium is normal in size. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF = 65%). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion.  

MRA HEAD AND NECK: Loss of vascular flow enhancement within the 
right V1-V3 segments is consistent with right vertebral artery 
dissection, with involvement of the V1 to proximal V3 segments.  
The extracranial left vertebral artery, extracranial carotid 
arteries, and major intracranial arteries are otherwise patent, 
without stenosis. 

MICROBIOLOGY
============
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old right-handed man who presented 
with headache, vomiting, right hand paresthesia and gait 
deviation, and was found to have right vertebral dissection and 
right medial cerebellar infarct. 

#R Vertebral Dissection and R Medial Cerebellar Infarct: 
Initial examination was notable only for increased sensation on 
the R side of the face and R arm and mild unsteadiness on tandem 
walk, all of which improved the following day. Given the 
patient's young age and family history of multiple unprovoked 
DVT's in his father, there was concern for a hypercoagulability 
disorder. He was started on heparin gtt due to concern for 
hypercoagulability. There was also concern for a paradoxical 
embolus, but TEE showed no thrombus and no ASD or PFO was 
visualized. The TEE was limited due to patient's inability to 
tolerate the procedure, so he also underwent a TTE with bubble 
study which reiterated the results. Doppler US of the lower 
extremities also showed no evidence of deep venous thrombosis. 
Factor VIII level was within normal limits. Antiphospholipid 
Syndrome labs were also sent out and are still pending. He 
should have the remainder of the thrombophilia work-up done as 
an outpatient. He will further need to undergo a sleep study in 
the outpatient setting to assess for OSA. 

Ultimately, the etiology of his stroke was thought to be 
dissection, which was confirmed on MRI neck with fat saturation 
technique. There was no obvious provoking maneuver. We discussed 
the possibility of continuing anticoagulation or aspirin and the 
patient chose to continue with aspirin. He was counseled on 
returning to the ED if his symptoms recur or he develops new 
symptoms. 

His stroke risk factors include the following: 
 1) DM: A1c 7.3%
 2) Mild intracranial atherosclerosis - mild atherosclerotic 
calcifications of the cavernous internal carotid arteries 
 3) Hyperlipidemia: LDL 153. 
 4) Obesity 
 5) Probable sleep apnea 

#Hyperlipidemia: He was found to have an elevated LDL for which 
he was started on Atorvastatin for secondary stroke prevention. 

# Diabetes: HbA1c was elevated to 7.3 so he was provided with 
diabetes education and started on Metformin upon discharge.

TRANSITIONAL ISSUES: 
- HbA1c elevated to 7.3%; Please continue Metformin 
- Elevated LDL to 153; Please continue Atorvastatin 
- Would recommend further testing for thrombophilia, including 
Factor V Leiden, Prothrombin gene mutation, and Protein C/S and 
Antithrombin level
- Sleep study to assess for OSA
- BP's slightly elevated during hospital stay; Please monitor 
closely and start ACE inhibitor as needed 
- No lifting weights or vigorous exercise for 1 month. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No 
 4. LDL documented? (x) Yes (LDL =153) - () No 
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No 
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No 
 9. Discharged on statin therapy? (x) Yes - () No 
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*5 
3.  MetFORMIN (Glucophage) 500 mg PO BID 
Start this medication on ___. Do not drink alcohol while taking 
this medication.   
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*5 

 
Discharge Disposition:
Home With Service
 
Facility:
 ___
 
Discharge Diagnosis:
R Vertebral Artery Dissection and R Medial Cerebellar Infarct 
Hyperlipidemia
Diabetes mellitus type II, new diagnosis

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and Interactive
Activity Status: Ambulates independently 
 
Discharge Instructions:
Dear ___,  

You were hospitalized due to symptoms of headache, nausea, 
vomiting, and gait instability resulting from a ACUTE ISCHEMIC 
STROKE affecting the cerebellum, a condition where a blood 
vessel providing oxygen and nutrients to the brain is blocked by 
a clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
  
Stroke can have many different causes, so we assessed you for  
medical conditions that might raise your risk of having stroke. 
You were found to have an elevated cholesterol and diabetes. You 
were started on Atorvastatin to lower your cholesterol and 
Metformin to lower your blood glucose. It is very important to 
take these medications and to eat a heart-healthy diet to 
prevent future strokes. You will also need to undergo a sleep 
study to look for obstructive sleep apnea. 

We are adding the following medications:   
1) Aspirin 81mg daily 
2) Atorvastatin 80mg daily 
3) Metformin 500mg BID

Please follow up with Neurology and your primary care physician 
as listed below.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___